US05700809
3-(4-benzoyloxymethyl-1,2,3,6-tetrahydropyridin-1-yl)methyl-1H-pyrrolo[2,3]pyridine.
A solution of benzoic acid 1-benzyl-1,2,3,6-tetrahydropyridin-4-ylmethyl ester (1.35 g, 4.4 mmol) in anhydrous dichloromethane (50 ml) was cooled to 0° C. and treated with a solution of 1-chloroethyl-chloroformate (0.62 ml, 5.7 mmol) in anhydrous dichloromethane (10 ml). After stirring at 0° C. for 1.5 hours, the solvent was evaporated and the residue redissolved in methanol (50 ml). This solution was stirred at reflux for two hours. The solvent was evaporated and the residue partitioned between ethyl acetate and saturated aqueous potassium carbonate solution. The organic phase was separated, dried (MgSO4) and evaporated in vacuo to afford the crude product (520 mg, 58% over two steps) as a colourless oil. A solution of the crude tetrahydropyridine (520 mg, 2.5 mmol) and 3-dimethylaminomethyl-1H-pyrrolo[2,3-b]pyridine (520 mg, 2.5 mmol) in toluene (20 ml) was stirred at reflux for 9 hours. The solvent was evaporated and the residue chromatographed with 5% methanol in dichloromethane as eluant to afford the title compound (480 mg, 55%) as a colourless solid, m.p. 126° C.; (Found: C, 72.42; H, 6.08; N, 12.15. C21H21N3O2 requires C, 72.60; H, 6.09; N, 12.10%); δH (CDCl3) 2.20-2.30 (2H, m, tetrahydropyridinyl CH2), 2.68 (2H, t, J 5.7 Hz, tetrahydropyridinyl CH2), 3.05-3.10 (2H, m, tetrahydropyridinyl CH2), 3.80 (2H, s, NCH2Ar), 5.86-5.94 (1H, m, tetrahydropyridinyl 5-H), 4.74 (2H, s, CH2O), 7.07 (1H, dd, J 7.8, 4.7 Hz, 5-H), 7.20-7.30 (1H, m, ArH), 7.38-7.45 (2H, m, ArH), 7.50-7.60 (1H, m, ArH), 8.00-8.10 (3H, m, ArH), 8.30 (1H, dd, J 4.7, 1.5 Hz, 6-H), and 9.33 (1H, s, NH); m/z (CI+, NH3) 348 (M+1)+.

reactant | benzoic acid 1-benzyl-1,2,3,6-tetrahydropyridin-4-ylmethyl ester | 4.4 mmol, 1.35 g | C(C1=CC=CC=C1)N1CCC(=CC1)COC(C1=CC=CC=C1)=O | C20H21NO2
reactant | 1-chloroethyl-chloroformate | 5.7 mmol, 0.62 ml | ClC(C)OC(=O)Cl | C3H4Cl2O2
reactant | tetrahydropyridine | 2.5 mmol, 520 mg | N1CCCC=C1 | C5H9N
reactant | 3-dimethylaminomethyl-1H-pyrrolo[2,3-b]pyridine | 2.5 mmol, 520 mg | CN(C)CC1=CNC2=NC=CC=C21 | C10H13N3
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-benzoyloxymethyl-1,2,3,6-tetrahydropyridin-1-yl)methyl-1H-pyrrolo[2,3]pyridine | 480 mg, 55% | C(C1=CC=CC=C1)(=O)OCC=1CCN(CC1)CC1=CNC=2C=CC=NC21 | C21H21N3O2
